US07504508B2
N-(4-chlorophenyl)-N-((2S,4R)-2-methyl-1-{4-[3-(trifluoromethyl)-1H-pyrazol-1-yl]benzoyl}-1,2,3,4-tetrahydroquinolin-4-yl)acetamide was prepared following general procedure A, substituting 4-[3-(trifluoromethyl)-1H-pyrazol-1-yl]benzoyl chloride for 4-fluorobenzoyl chloride. (4-[3-(trifluoromethyl)-1H-pyrazol-1-yl]benzoyl chloride was prepared in one step from 4-[3-(trifluoromethyl)-1H-pyrazol-1-yl]benzoic acid. 4-[3-(Trifluoromethyl)-1H-pyrazol-1-yl]benzoic acid was treated with oxalyl chloride in DCM and catalytic DMF to afford 4-[3-(trifluoromothyl)-1H-pyrazol-1-yl]benzoyl chloride in decent yield). The rest of the procedures were followed as indicated in general procedure A to afford N-(4-chlorophenyl)-N-((2S,4R)-2-methyl-1-{4-[3-(trifluoromethyl)-1H-pyrazol-1-yl]benzoyl}-1,2,3,4-tetrahydroquinolin-4-yl)acetamide.

reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 4-[3-(trifluoromethyl)-1H-pyrazol-1-yl]benzoyl chloride | FC(C1=NN(C=C1)C1=CC=C(C(=O)Cl)C=C1)(F)F | C11H6ClF3N2O
reactant | 4-[3-(trifluoromethyl)-1H-pyrazol-1-yl]benzoic acid | FC(C1=NN(C=C1)C1=CC=C(C(=O)O)C=C1)(F)F | C11H7F3N2O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-chlorophenyl)-N-((2S,4R)-2-methyl-1-{4-[3-(trifluoromethyl)-1H-pyrazol-1-yl]benzoyl}-1,2,3,4-tetrahydroquinolin-4-yl)acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)N1N=C(C=C1)C(F)(F)F)=O)C | C29H24ClF3N4O2
